US05929291
100 ml (0.30 mol) of methylmagnesium bromide solution in diethyl ether was added to 60.0 g (0.32 mol) of cuprous iodide suspended in 350 ml of the same solvent at -10° C., followed by addition of 52.0 g (0.27 mol) of 2-methyl-4-(2,2,3-trimethylcyclopent-3-enyl)but-2-enal dissolved in 300 ml of anhydrous diethyl ether at 0° C. and stirring at the same temperature was continued for 0.5 hours. The reaction mixture was treated with 200 ml of 1.0 N hydrochloric acid, decanted and the organic layer was washed with 2×300 ml of brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluent: hexane/MTBE 15:1) to give 28.2 g (50% yield) of 2,3-dimethyl-4-(2,2,3-trimethylcyclopent-3-enyl)butanal.

reactant | methylmagnesium bromide | 0.30 mol, 100 ml | C[Mg]Br
reactant | 2-methyl-4-(2,2,3-trimethylcyclopent-3-enyl)but-2-enal | 0.27 mol, 52.0 g | CC(C=O)=CCC1C(C(=CC1)C)(C)C | C13H20O
reactant | hydrochloric acid | 1.0 N, 200 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2,3-dimethyl-4-(2,2,3-trimethylcyclopent-3-enyl)butanal | 28.2 g, 50% yield | CC(C=O)C(CC1C(C(=CC1)C)(C)C)C | C14H24O
